US05250522
(S)-4-(t-Butoxycarbonylamino)-5-(biphenyl-4-yl)-pentenoic acid ethyl ester (1.6 g), is dissolved in ethanol and hydrogenated under 48 psi for 2 hours with Pd/C catalyst. The mixture is filtered through Celite and the filtrate is concentrated in vacuo to yield (S)-4-(t-butoxycarbonylamino)-5-(biphenyl-4-yl)-pentanoic acid ethyl ester.

reactant | (S)-4-(t-Butoxycarbonylamino)-5-(biphenyl-4-yl)-pentenoic acid ethyl ester | 1.6 g | C(C)OC(C=C[C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C24H29NO4
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | (S)-4-(t-butoxycarbonylamino)-5-(biphenyl-4-yl)-pentanoic acid ethyl ester | C(C)OC(CC[C@@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C24H31NO4
